US07459263B2
Finally, 2-butoxyxanthen-9-one (S-14) was synthesized. A stirred suspension under argon of 2-(4-butoxyphenoxy)benzoic acid (8.2 g, 29 mmol) in acetic anhydride (50 mL) was treated with 2.8 g (29 mmol) of concentrated sulfuric acid, and then held at 80° C. for 3 h. The mixture was cooled to ambient, and then poured onto 500 g of ice. The precipitated crude product was collected, washed with water, and air dried. The product was purified by column chromatography followed by recrystallization from 50% aqueous ethanol. A white powder was obtained. 1H NMR (CDCl3): δ 1.00 (t, 3H), 1.5 (m, 2H), 1.85 (m, 2H), 4.08 (t, 2H), 7.3-7.5 (m, 4H), 7.7 (m, 2H), 8.36 (d, 1H).

reactant | 2-(4-butoxyphenoxy)benzoic acid | 29 mmol, 8.2 g | C(CCC)OC1=CC=C(OC2=C(C(=O)O)C=CC=C2)C=C1 | C17H18O4
reactant | sulfuric acid | 29 mmol, 2.8 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-butoxyxanthen-9-one | C(CCC)OC1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | C17H16O3
